US05652335
Preparation of H-Tyr-D.
Z-Leu-OH (2.10 g, 7.9 mmol) was dissolved in methylene chloride (30 ml), to which 1-adamantane methanol (1.31 g, 7.9 mmol), DCC (1.8 g, 8.7 mmol) and DMAP (97 mg, 0.79 mmol) were added and stirred at 4° C. for 48 hours. After removing the resultant urea derivative by filtration, the solvent was distilled off. The residue was dissolved in ethyl acetate, and ethyl acetate layer was washed with an aqueous 5% solution of sodium carbonate, an aqueous 10% solution of citric acid, an aqueous saturated solution of sodium chloride and water successively. After drying with sodium sulfate, ethyl acetate was distilled off. Further, the residue was dissolved in chloroform and purified by silica gel column chromatography to obtain an oily product showing a single spot.

reactant | Z-Leu-OH | 7.9 mmol, 2.10 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | 1-adamantane methanol | 7.9 mmol, 1.31 g | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | DCC | 8.7 mmol, 1.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.79 mmol, 97 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | H-Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
